US07071184B2
a. ((R)-2-Iodo-1-methyl-ethyl)-carbamic acid benzyl ester
Triphenylphospine (24 g, 91.8 mmol) was added to a solution of imidazole (12.5 g, 184 mmol) in CH2Cl2 (231 ml), then was cooled to 0 degrees C. Iodine (23.3 g, 91.8 mmol) was added to the suspension. The reaction mixture turned yellow, then faintly brown. After 5 minutes ((R)-2-hydroxy-1-methyl-ethyl)-carbamic acid benzyl ester (9.59 g, 45.9 mmol) was added and the reaction mixture was warmed to RT then stirred for 3 h. Then, H2O (7 ml) was added and the reaction mixture was partitioned between CH2Cl2 (300 ml) and H2O (600 ml). The aqueous layer was extracted again with CH2Cl2 (200 ml). The combined organic layer was then washed with a solution of 1:9 aq. saturated Na2S2O3: H2O (140 ml), then brine (400 ml). The combined organics were dried with MgSO4, filtered, concentrated in vacuo, then filtered through a plug of silica gel washing with 15% EtOAc/hexanes (1.5 liter). The solution was concentrated in vacuo, then the solid was washed with hexane and the resultant white solid was used in the next reaction without further purification (11 g, 75%).

reactant | Triphenylphospine | 91.8 mmol, 24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 184 mmol, 12.5 g | N1C=NC=C1 | C3H4N2
reactant | Iodine | 91.8 mmol, 23.3 g | II | I2
reactant | ((R)-2-hydroxy-1-methyl-ethyl)-carbamic acid benzyl ester | 45.9 mmol, 9.59 g | C(C1=CC=CC=C1)OC(N[C@@H](CO)C)=O | C11H15NO3
solvent | CH2Cl2 | 231 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 7 ml | O | H2O
product | ((R)-2-Iodo-1-methyl-ethyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H](CI)C)=O | C11H14INO2
